Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Abdominal Pain"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old primigravid who lad a low 
transverse cesarean delivery on ___  and was presenting with 
abdominal pain. Her pain started at 0700 on ___ while 
breastfeeding. It was diffuse tenderness across her abdomen. She 
also reported some nausea and one episode of vomiting. There was 
no blood in her vomit. She rated the Pain a constant ___ with 
waves of more intense
pain. She denied fevers, chills, sweats. She had no appetite and 
took simethicone, which caused her to have one bowel movement 
with no improvement of pain. She denied chest pain, shortness of 
breath, vaginal bleeding, vaginal
discharge or discharge from her wound.

In the Emergency Department, she received 8mg morphine, 2mg 
dilaudid and 16mg zofran all through an IV.

 
Past Medical History:
- Significant for fibroids with the largest being 10x4cm and 
observed at the time of her cesarean delivery. This fibroid was 
located in the fundus of her uterus.
- She also had a septoplasty
- One spontaneous abortion at 6 weeks gestational age in ___
 
Social History:
She works at ___. She denies tobacco, alcohol or drugs.
 
Physical Exam:
Physical Examination was conducted by Dr. ___

VS: 99.3 66 122/68 16 100% 
Gen: In no acute distress
Card: Regular rate and rhythm, no murmurs, rubs or gallops
Resp: Lungs were clear to auscultation bilaterally
Abd: Soft, no rebound or guarding, focally tender in Left Lower 
Quadrant. She had bowel sounds. 
Well healed Phannensteil incision
Bimanual: No Cervical Motion Tenderness, no blood on glove, 
enlarged uterus with left fundal tenderness
Ext: Non-tender and non-edematous

 
Pertinent Results:
___ 12:30PM   GLUCOSE-97 UREA N-14 CREAT-0.6 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-22 ANION GAP-15
___ 12:30PM   estGFR-Using this
___ 12:30PM   ALT(SGPT)-28 AST(SGOT)-22 ALK PHOS-55
___ 12:30PM   LIPASE-23
___ 12:30PM URINE  HOURS-RANDOM
___ 12:30PM URINE  UCG-NEGATIVE
___ 12:30PM   WBC-8.0 RBC-4.15* HGB-12.4 HCT-36.7 MCV-89 
MCH-29.9 MCHC-33.8 RDW-14.5
___ 12:30PM   NEUTS-85.2* LYMPHS-11.4* MONOS-2.5 EOS-0.4 
BASOS-0.5
___ 12:30PM   PLT COUNT-321
___ 12:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG

CT ABDOMEN/PELVIS:

CT OF THE ABDOMEN WITH IV CONTRAST: The visualized lung bases 
are clear. 
Visualized portions of the heart are normal.   
The liver, gallbladder, stomach, visualized loops of small and 
large bowel, bilateral kidneys, bilateral adrenal glands, and 
pancreas are within normal limits. The abdominal aorta is normal 
caliber and contour. No free fluid or free air throughout the 
abdomen. No mesenteric or retroperitoneal lymphadenopathy. 
  
CT OF THE PELVIS WITH IV CONTRAST: There is an 8.3 x 4.9 cm 
well- 
circumscribed mass midline in the pelvis (2:57) which is likely 
representative of a large exophytic fibroid. However, ovarian 
torsion may not be completely excluded. Otherwise, the 
visualized portions of the uterus, bladder, sigmoid colon, and 
rectum are within normal limits. No free fluid or free air 
throughout the pelvis. No pelvic or inguinal lymphadenopathy. 
  
OSSEOUS STRUCTURES: No suspicious lytic or sclerotic osseous 
lesions. 

Transvaginal and Transabdominal Ultrasound:
The uterus measures 6.8 x 3.9 x 5.8 cm and contains two fibroids 
with one 
being a large exophytic fibroid, corresponding to the mass seen 
on CT, 
measuring 7.4 x 5.3 x 5.1 cm. The other fibroid is a left fundal 
fibroid 
measuring 2.5 x 1.6 x 1.3 cm. The endometrium is normal 
measuring 4 mm. 
  
No free fluid is identified within the pelvis. Bilateral ovaries 
are 
symmetric with right ovary measuring 2.9 x 1.3 x 1.9 cm and the 
left ovary 
measuring 2.6 x 1.5 x 1.2 cm. Normal venous waveforms are 
visualized in the 
left ovary although arterial flow could not be reliably 
obtained, likely 
technical in nature. Normal venous and arterial waveforms are 
visualized 
throughout the right ovary. 

 
Brief Hospital Course:
Ms ___ was admitted for overnight observation and adequate 
pain management. She was prescribed IV dilaudid as needed for 
pain control and metoclopromide and zofran for nausea and 
vomiting. She did well overnight and received her dilaudid twice 
and her reglan once. She had one episode of emesis overnight 
prompting the use of reglan. She rated the pain as ___ with the 
pain medicines. In the morning, she was given a regular diet, 
which she tolerated. She was then transitioned to oral pain 
medicines and was given a prescription for motrin for pain 
control.
 
Medications on Admission:
Prenatal Vitamins
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for pain for 1 weeks.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Degenerating Uterine Fibroid

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call with increased pain
 
Followup Instructions:
___